US05576340
Ethyl (R)-α-(t-butyldimethylsilyloxy)-α-phenylacetate
A solution of 31.4 g of t-butyldimethylsilyl chloride in 200 ml of dimethylformamide was added dropwise to a solution of 25 g of ethyl (R)-(-)-mandelate and 28.4 g of imidazole in 600 ml of anhydrous dimethylformamide, and the resulting mixture was stirred overnight at 40° C. The dimethylformamide solvent was then removed by distillation under reduced pressure, and the residue was mixed with water and then extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate, and the solvent was then removed by distillation under reduced pressure. The resulting residue was purified by column chromatography through silica gel, using a 1:10 by volume mixture of ethyl acetate and hexane as the eluent. The title compound was obtained as a liquid, boiling at 129° C./3.5 mmHg (466 Pa) by distillation in vacuo.

reactant | t-butyldimethylsilyl chloride | 31.4 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | ethyl (R)-(-)-mandelate | 25 g | C([C@H](O)C1=CC=CC=C1)(=O)OCC | C10H12O3
reactant | imidazole | 28.4 g | N1C=NC=C1 | C3H4N2
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 600 ml | CN(C=O)C | C3H7NO
product | Ethyl (R)-α-(t-butyldimethylsilyloxy)-α-phenylacetate | [Si](C)(C)(C(C)(C)C)O[C@@H](C(=O)OCC)C1=CC=CC=C1 | C16H26O3Si
